US07968570B2
7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile (400.0 mg, 1.16 mmol) and PtO2 (26.0 mg, 0.115 mmol) were added to formic acid (2 mL) and the mixture was heated at 60° C. for three hours. The NMR spectrum showed 40% conversion, so PtO2 (50.0 mg) was added to the mixture and it was allowed to stir at 60° C. overnight. After cooling, the mixture was filtered through Celite® and concentrated. Column chromatography (30% EtOAc/Hexanes) provided the title compound as a white solid (357.5 mg, 88%). 1H NMR (300 MHz, CDCl3): δ 10.08 (s, 1H), 7.71 (s, 2H), 7.35 (d, 3H), 7.19 (d, 3H), 4.80 (s, 2H), 4.32 (s, 2H), 2.83 (s, 3H).

reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile | 1.16 mmol, 400.0 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C18H13F3N2O2
reactant | formic acid | 2 mL | C(=O)O | CH2O2
catalyst | PtO2 | 0.115 mmol, 26.0 mg | O=[Pt]=O
catalyst | PtO2 | 50.0 mg | O=[Pt]=O
product | 7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde | 357.5 mg, 88% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C=O | C18H14F3NO3
